US07781591B2
To a stirred solution of 3-hydroxy-4-methoxyphenyl acetic acid (24.8 g, 136 mmol) in 200 mL of MeOH was added 1 mL of H2SO4 and the reaction mixture was heated at reflux overnight. The methanol was removed by evaporation in vacuo and the residue was poured into saturated NaHCO3 solution and extracted with EtOAc (3×150 mL). Combined organic extracts were then washed with brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo to yield 23.9 g (90% yield) of 3-hydroxy-4-methoxyphenyl acetic acid methyl ester as a yellow oil.

reactant | 3-hydroxy-4-methoxyphenyl acetic acid | 136 mmol, 24.8 g | OC=1C=C(C=CC1OC)CC(=O)O | C9H10O4
reactant | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 200 mL | CO | CH4O
product | 3-hydroxy-4-methoxyphenyl acetic acid methyl ester | 23.9 g, 90% yield | COC(CC1=CC(=C(C=C1)OC)O)=O | C10H12O4
